US06710043B1
To a solution of 4-(4-fluorobenzoylamino)piperidine (0.25 g) in dichloromethane (5 ml) were added in turn pyridine (0.14 ml) and methyl chloroformate (87 μl) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour. To the mixture was added N,N-dimethylaminopyridine (0.13 g) and allowed to stir for another 1 hour. The reaction mixture was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed in turn with hydrochloric acid (1N), aqueous sodium hydrogen carbonate, and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was triturated with diisopropyl ether to give 4-(4-fluorobenzoylamino)-1-methoxycarbonylpiperidine (0.265 g).

reactant | 4-(4-fluorobenzoylamino)piperidine | 0.25 g | FC1=CC=C(C(=O)NC2CCNCC2)C=C1 | C12H15FN2O
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 87 μl | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-fluorobenzoylamino)-1-methoxycarbonylpiperidine | 0.265 g | FC1=CC=C(C(=O)NC2CCN(CC2)C(=O)OC)C=C1 | C14H17FN2O3
